US08664220B2
Step 1: 3-Methylamino-pent-2-enoic acid methyl ester
Prepared according to the procedure described in Example 1, Step 1, using 3-oxo-pentanoic acid methyl ester and methylamine.

reactant | 3-oxo-pentanoic acid methyl ester | COC(CC(CC)=O)=O | C6H10O3
reactant | methylamine | CN | CH5N
product | 3-Methylamino-pent-2-enoic acid methyl ester | COC(C=C(CC)NC)=O | C7H13NO2
